US06335324B1
Ammonium formate (18 g, 285 mmol) was added to a solution of 4-phenylcyclohexanone (5 g, 28.7 mmol) in methanol (150 ml) under nitrogen at room temperature followed by the portionwise addition of sodium cyanoborohydride (1.85 g, 29.4 mmol). After stirring the reaction mixture at room temperature for 24 hours, the methanol was removed under vacuum to leave an oily residue. The residue was dissolved in methylene chloride (100 ml) which was then washed with 1N sodium hydroxide (2×100 ml). The organic layer was separated, dried over sodium sulfate, filtered and concentrated to leave an off-white solid. Purification by flash chromatography (silica gel, 0-20% methanol/methylene chloride) provided 3.46 g of trans-4-phenyl-cyclohexylamine as a white solid.

reactant | Ammonium formate | 285 mmol, 18 g | C(=O)[O-].[NH4+]
reactant | 4-phenylcyclohexanone | 28.7 mmol, 5 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | sodium cyanoborohydride | 29.4 mmol, 1.85 g | C(#N)[BH3-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | trans-4-phenyl-cyclohexylamine | 3.46 g | C1(=CC=CC=C1)[C@@H]1CC[C@H](CC1)N | C12H17N
